US04473704
Ethyl 2-(2-Phenylethyl)acetoacetate
Ethyl acetoacetate (53.8 g., 0.29 mole) was dissolved in 110 ml. of anhydrous ethanol. Sodium methoxide (17.3 g., 0.36 mole) was added portionwise to the stirred solution, allowing the temperature to rise to 40°-50°. The mixture was then heated to reflux (80°-82°) and phenethyl bromide (53.8 g., 0.32 mole) added dropwise over 1 hour. Reflux was continued for 20 hours. The reaction mixture was cooled to 30°-35° and filtered over diatomaceous earth with ethanol wash. The combined filtrate and wash were concentrated in vacuo to a pot temperature of 50°, cooled to 25°, diluted with 150 ml. of hexane and 40 ml. of water, acidified to pH 6.5-7.0 with 6N HCl. The hexane layer was separated and washed with 25 ml. of fresh water. The aqueous layers were combined and back-washed with 40 ml. of fresh hexane. The hexane layers were combined, washed with 60 ml. of water, dried over 15 g. MgSO4, filtered and evaporated to yield title product as an oil (62 g., 91%).

reactant | Ethyl acetoacetate | 0.29 mole, 53.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Sodium methoxide | 0.36 mole, 17.3 g | C[O-].[Na+]
reactant | phenethyl bromide | 0.32 mole, 53.8 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-(2-Phenylethyl)acetoacetate | 62 g, 91% | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)C | C14H18O3
